US05633406
DMSO (15 ml) is added with rapid stirring to a mixture of picramide (0.477 g, 2.09 mmol), O-benzylhydroxylamine (1.64 g, 10.3 mmol) and sodium methoxide (1.91 g, 35.4 mmol). The brown suspension is stirred at ambient temperature for 15 hr. The reaction mixture is poured into cold 0.12N aqueous HCl (200 ml). The resulting precipitate is collected, washed with water and dried to yield 0.444 g (87%) of DATB.

reactant | picramide | 2.09 mmol, 0.477 g | C1=C(C=C(C(=C1[N+](=O)[O-])N)[N+](=O)[O-])[N+](=O)[O-] | C6H4N4O6
reactant | O-benzylhydroxylamine | 10.3 mmol, 1.64 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | sodium methoxide | 35.4 mmol, 1.91 g | C[O-].[Na+]
reactant | HCl | 0.12N, 200 ml | Cl | ClH
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | DATB | 0.444 g, 87% | C1=C(C(=C(C(=C1[N+](=O)[O-])N)[N+](=O)[O-])N)[N+](=O)[O-] | C6H5N5O6
